US04182790
N-(α-methylheptyl)acrylamide
Following a procedure analogous to that of Example 1, treat acrylonitrile with 1-octene in the presence of phenothiazene and 83% sulfuric acid to obtain the title product.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | 1-octene | C=CCCCCCC | C8H16
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | N-(α-methylheptyl)acrylamide | CC(CCCCCC)NC(C=C)=O | C11H21NO
